2134-10-20 09:03:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath, anxiety
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, desaturation on CPAP to 70s, Oxygen supplementation turned
   up, but PCO2 rose on repeat ABG. Now taken off CPAP.
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-20**] 08:00 AM
   Other medications:
   colace, terazosin, aldactone [**Hospital1 **], lopressor 12.5 [**Hospital1 **], tesslon tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-20**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 97 (79 - 116) bpm
   BP: 176/84(113) {128/66(85) - 176/85(113)} mmHg
   RR: 31 (22 - 39) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    980 mL
   Urine:
                                                                  1,000 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                   -980 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 86%
   ABG: 7.28/84.[**Numeric Identifier 1000**]/84.[**Numeric Identifier 1000**]/37/9
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Left inguinal fold with candidal appearing rash, sacral
   stage I ulcer.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.2 g/dL
   206 K/uL
   126 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.6 mEq/L
   14 mg/dL
   101 mEq/L
   145 mEq/L
   41.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2134-10-19**]  06:30 PM
                             [**2134-10-19**]  07:50 PM
                             [**2134-10-19**]  10:09 PM
                             [**2134-10-20**]  04:28 AM
                             [**2134-10-20**]  04:49 AM
                             [**2134-10-20**]  06:04 AM
                             [**2134-10-20**]  07:16 AM
                             [**2134-10-20**]  08:08 AM
   WBC
   8.3
   Hct
   41.8
   Plt
   206
   Cr
   0.6
   TCO2
   39
   39
   39
   42
   40
   38
   41
   Glucose
   126
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Fluid analysis / Other labs:
   Imaging: CXR with small bilateral effusion, no gross parechymal
   abnormality, limited due to soft tissue artifact.
   Echo [**2133**] EF >40%
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): Presented with anxiety.
   Likely OSA, likely with component of pulmonary HTN, and RV
   dysfunction/failure. Doubt taht he had any acute change as patient
   states his breathing currently is at baseline. He is significantly
   hypoxic on RA while semi asleep. Failed CPAP.
   Trial of Bipap today, very sensitive to significant O2 supplementation.
   Avoid sedating medications. Will check Echo of the heart. Sleep consult
   for inpatient sleep study. Diurese -1L empirically.
 HTN: titrate up atenolol, goal goal SBP <170
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Mr. [**Known lastname 901**]
s mental status and ABG worsened over the course of the
   day and the decision was made to intubate him. Discussions were held
   with him and his wife about the logic behind tracheostomy. These
   conversations will be continued. An echo showed a dilated RV though the
   LV could not be visualized. For now, he will continue to be supported
   on the vent and he will be diuresed. The trach will be extremely
   helpful in treating his OSA, hypoxemia, cor pulmonale and RV failure.
   cc time: 35
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-20**] 15:58 ------

2134-10-21 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-20**]
   - did not tolerate BIPAP, in afternoon became more solument and breifly
   unrsponsive, had pt intubated for plan for likely trach
   - sleep is concerned about ventricle enlargement on head CT, will try
   to obatin MRI brain records and prior neurology OSH records
   - once extubated will need portable sleep study
   - gave lasix 20 IV, diuresed 1.7 liters by midnight
   - head CT with stable enlarge ventricles and narrow foramen magna
   - will need to consult IP for trach placment
   - at 4AM, desated after being moved, had squeeking wheezing on left,
   cxr with colapsed left lung, placed on FIO2 100% (from 60), then did a
   bronch, mucus plug removed from airway on left mainstem, then
   bronchoscope became stuck on exit. Needed to have ET tube removed and
   replaced under fiberoptic guidance
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2134-10-20**] 09:55 AM
 INVASIVE VENTILATION - START [**2134-10-20**] 02:39 PM
 BLOOD CULTURED - At [**2134-10-20**] 05:42 PM
 URINE CULTURE - At [**2134-10-20**] 05:50 PM
 BRONCHOSCOPY - At [**2134-10-21**] 05:25 AM
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2134-10-21**] 05:25 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-20**] 09:15 AM
   Midazolam (Versed) - [**2134-10-20**] 01:59 PM
   Propofol - [**2134-10-20**] 02:19 PM
   Metoprolol - [**2134-10-20**] 04:55 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-21**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 113 (80 - 120) bpm
   BP: 143/80(99) {95/61(75) - 176/102(119)} mmHg
   RR: 17 (14 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    454 mL
                                                                    240 mL
   PO:
             TF:
   IVF:
                                                                    454 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    245 mL
   Urine:
                                                                  2,205 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,751 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 37 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: 7.34/73.[**Numeric Identifier 218**]/73.[**Numeric Identifier 218**]//9
   Ve: 6.5 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   13.3 g/dL
   126 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.5 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   41.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2134-10-20**]  08:08 AM
                             [**2134-10-20**]  12:05 PM
                             [**2134-10-20**]  01:03 PM
                             [**2134-10-20**]  03:29 PM
                             [**2134-10-20**]  05:00 PM
                             [**2134-10-20**]  06:28 PM
                             [**2134-10-20**]  08:16 PM
                             [**2134-10-21**]  03:51 AM
                             [**2134-10-21**]  04:31 AM
                             [**2134-10-21**]  06:39 AM
   WBC
   11.4
   Hct
   41.8
   Plt
   197
   TCO2
   41
   42
   41
   40
   40
   42
   41
   42
   41
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A/P: 51 yo M with PMH of CHF, OSA, OHS presents with SOB and
   hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: secondary to O2 administration and
   decreased respiratory drive. Likely has both OSA and OHS given body
   habitus though never formally evaluated. Head CT with enlarged
   ventricles, though stable from prior head CT, that may be represent NPH
   that worsens his respiratory status and MS. Yesterday he was intuabted
   and during the night had a mucus plug on the left. Then required
   reintubation due ot bronchoscopy becoming lodged in ET tube. Now
   improving sats after this procedure. Concern for possible PNA since pt
   has secretions and had fever last night. Serum and urine tox screens
   negative.
   - clutures were sent
   - will start tx for HAP with levaquin and vanco (allergy to PCN)
   - monitor ABG and O2sats for improvement
   - adjust vent to keep CO2 <70 and Sats in high 90s
   - try to obtain OSH MR brain and neuro records
   - will need sleep study once awake
   - appreicate sleep recs
   - IP c/s for trach placement
   # Altered mental status: No evidence of acute infarct on head CT. No
   fevers or elevated WBC to suggest infection. Likely secondary to
   worsening hypercarbic respiratory failure.
   - treat underlying respiratory failure
   - F/u if any previous Neuro workup
   - Sleep study eventually
   #Urine: very cloudy, possible infection, ? early ATN
   - f/u U/A
   - Spin urine
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   # FEN: No IVF, replete electrolytes, NPO if on noninvasive
   - goal fluid balance even to slightly negative
   - Nutrition consult for TF recs
   # Prophylaxis: Subutaneous heparin
   # Access: peripherals , PICC placed
   # Code: Full
   # Communication: Patient and Wife [**Name (NI) 248**] [**Numeric Identifier 10033**] (cell)
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-10-20**] 07:35 AM
   20 Gauge - [**2134-10-20**] 03:28 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: H2 blocker
   VAP:  protocol, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2134-10-21 09:37:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath, sleep apnea, OHS, pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Progressive somnolence during the day yesterday, PCO2 didnot recover
   from 80s, didnot tolerate Bipap, electively intubated via fiberoptic
   nasal route. Overnight then had desaturation with turn, CXR showed
   collapse of Left lung, bronchoscopy performed, wtih aspiration of
   mucous plug from left mainstem, bronchoscoped was lodged in ETT and
   required reintubation fiberoptically. Head CT with bilateral enlarged
   ventricles, stable from [**2133**]. Spiked a fever to 100.9 s/p pancultured.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-20**] 09:15 AM
   Midazolam (Versed) - [**2134-10-20**] 01:59 PM
   Propofol - [**2134-10-20**] 02:19 PM
   Metoprolol - [**2134-10-20**] 04:55 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-21**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-21**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 113 (80 - 120) bpm
   BP: 143/80(99) {95/61(75) - 170/102(117)} mmHg
   RR: 17 (14 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    454 mL
                                                                    247 mL
   PO:
             TF:
   IVF:
                                                                    454 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    245 mL
   Urine:
                                                                  2,205 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,751 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: 7.34/73.[**Numeric Identifier 218**]/73.[**Numeric Identifier 218**]/35/9
   Ve: 6.9 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   bilaterally diffusely)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: intubated sedated
   Labs / Radiology
   13.3 g/dL
   197 K/uL
   107 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   16 mg/dL
   97 mEq/L
   141 mEq/L
   41.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2134-10-20**]  08:08 AM
                             [**2134-10-20**]  12:05 PM
                             [**2134-10-20**]  01:03 PM
                             [**2134-10-20**]  03:29 PM
                             [**2134-10-20**]  05:00 PM
                             [**2134-10-20**]  06:28 PM
                             [**2134-10-20**]  08:16 PM
                             [**2134-10-21**]  03:51 AM
                             [**2134-10-21**]  04:31 AM
                             [**2134-10-21**]  06:39 AM
   WBC
   11.4
   Hct
   41.8
   Plt
   197
   Cr
   0.6
   TCO2
   41
   42
   41
   40
   40
   42
   41
   42
   41
   Glucose
   107
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR infiltrate LLL, and possibly in right lung fields
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   OHS/OSA + currently appears to have a blossoming pneumonia on CXR, and
   fever spike overnight, ? aspiration vs community acquired pneumonia.
   Started on vancomycina nd levofloxacin. Start on standing nebulizers.
   Will keep TBB even. Consult IP for tracheostomy.
   Vent: increased TV to 500, now plateau of 28, AutoPeep of 8 +set PEEP
   of 10.
Hematuria: will send U/A and microscopy, monitor Urine output
   ICU Care
   Nutrition:
   Comments: advance OG tube. Nutrition consult for tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-10-20**] 07:35 AM
   20 Gauge - [**2134-10-20**] 03:28 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: Will continue communication with wife today.
   [**Name2 (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2134-10-22 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2134-10-21**] 10:29 AM
 URINE CULTURE - At [**2134-10-21**] 10:29 AM
 PICC LINE - START [**2134-10-21**] 04:22 PM
   - increased tidal volume with subsequent ABG 7.37/66/64/40
   - increased PEEP to 12, decreased FiO2 to 50%
   - urine, sputum, BCx pending
   - sleep recs: no new recs  (portable sleep study when extubated,
   consider brain/cervical MRI)
   - OG tube placed
   - started TFs
   - IP consulted for trach: rec CTS for trach, IP called Dr. [**First Name (STitle) **] with
   CTS and have coordinated booking OR case Monday
   - IV lasix 20 x 1 to get even
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-21**] 09:30 AM
   Vancomycin - [**2134-10-21**] 07:42 PM
   Aztreonam - [**2134-10-22**] 01:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-21**] 07:07 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-22**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-22**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 99 (88 - 113) bpm
   BP: 124/69(88) {114/66(84) - 144/98(112)} mmHg
   RR: 16 (15 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,791 mL
                                                                    477 mL
   PO:
             TF:
                                                                    163 mL
                                                                    143 mL
   IVF:
                                                                  1,427 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    710 mL
   Urine:
                                                                  1,990 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.41/55/76.[**Numeric Identifier 126**]/35/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: L inguinal fold
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   175 K/uL
   12.9 g/dL
   137 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   16 mg/dL
   96 mEq/L
   139 mEq/L
   38.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2134-10-20**]  06:28 PM
                             [**2134-10-20**]  08:16 PM
                             [**2134-10-21**]  03:51 AM
                             [**2134-10-21**]  04:31 AM
                             [**2134-10-21**]  06:39 AM
                             [**2134-10-21**]  10:08 AM
                             [**2134-10-21**]  03:24 PM
                             [**2134-10-22**]  12:52 AM
                             [**2134-10-22**]  03:30 AM
                             [**2134-10-22**]  04:31 AM
   WBC
   11.4
   9.2
   Hct
   41.8
   38.6
   Plt
   197
   175
   Cr
   0.6
   0.6
   TCO2
   42
   41
   42
   41
   40
   37
   37
   36
   Glucose
   107
   137
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   [**10-20**] BCx x 2 NGTD
   [**10-20**] Ucx contaminated
[**2134-10-21**] 9:44 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
   [**2134-10-21**] Urine Culture pending
   [**10-21**] CXR:
   IMPRESSION:
   1. Right PICC tip at brachiocephalC junction.
   2. Proximal sideports of NG tube are in the distal esophagus--would
   recommend
   advancing 12 cm.
   3. Worsening left lower lobe atelectasis with small left pleural
   effusion.
   4. Increased probable right atelectasis or vascular congestion, less
   likely
   pneumonia.
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure: secondary to O2 administration and
   decreased respiratory drive. Likely has both OSA and OHS given body
   habitus though never formally evaluated. Head CT with enlarged
   ventricles, though stable from prior head CT, that may be represent NPH
   that worsens his respiratory status and MS. Yesterday he was intuabted
   and during the night had a mucus plug on the left. Then required
   reintubation due ot bronchoscopy becoming lodged in ET tube. Now
   improving sats after this procedure. Concern for possible PNA since pt
   has secretions. Serum and urine tox screens negative.
   - f/u cultures
   - will start tx for HAP with levaquin and vanco (allergy to PCN)
   - monitor ABG and O2sats for improvement
   - adjust vent to keep CO2 <70 and Sats in high 90s
   - try to obtain OSH MR brain and neuro records
   - will need sleep study once awake
   - appreicate sleep recs
   - CTS to do trach on Monday
   # Altered mental status: No evidence of acute infarct on head CT. No
   fevers or elevated WBC to suggest infection. Likely secondary to
   worsening hypercarbic respiratory failure.
   - treat underlying respiratory failure
   - F/u if any previous Neuro workup
   - Sleep study eventually
   #Urine: very cloudy, possible infection, ? early ATN
   - f/u UA
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-21**] 03:50 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2134-10-22 12:10:00 Physician Attending Progress Note
Chief Complaint: OSA/OHS and pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Pancultured. CT surgery consulted for tracheostomy planned for Monday.
   Diuresed to keep TBB even.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-21**] 09:30 AM
   Aztreonam - [**2134-10-22**] 01:00 AM
   Vancomycin - [**2134-10-22**] 08:22 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-21**] 07:07 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-22**] 04:32 AM
   Other medications:
   spironolactone, lopressor, propofol, raniditine, atrovent.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-22**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98.1
   HR: 99 (88 - 113) bpm
   BP: 144/80(100) {114/66(84) - 149/98(112)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,791 mL
                                                                    905 mL
   PO:
             TF:
                                                                    163 mL
                                                                    235 mL
   IVF:
                                                                  1,427 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                  1,140 mL
   Urine:
                                                                  1,990 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.41/55/76.[**Numeric Identifier 126**]/35/7
   Ve: 11.6 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, opens eyes to examination
   of his lungs
   Labs / Radiology
   12.9 g/dL
   175 K/uL
   137 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   16 mg/dL
   96 mEq/L
   139 mEq/L
   38.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2134-10-20**]  06:28 PM
                             [**2134-10-20**]  08:16 PM
                             [**2134-10-21**]  03:51 AM
                             [**2134-10-21**]  04:31 AM
                             [**2134-10-21**]  06:39 AM
                             [**2134-10-21**]  10:08 AM
                             [**2134-10-21**]  03:24 PM
                             [**2134-10-22**]  12:52 AM
                             [**2134-10-22**]  03:30 AM
                             [**2134-10-22**]  04:31 AM
   WBC
   11.4
   9.2
   Hct
   41.8
   38.6
   Plt
   197
   175
   Cr
   0.6
   0.6
   TCO2
   42
   41
   42
   41
   40
   37
   37
   36
   Glucose
   107
   137
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Imaging: PICC in place, improving aeration of the lung bases, ETT 4cm
   above the carina.
   Microbiology: sputum >25, resp culture pending.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY:
   Continue wound care.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   attempt to wean sedation and wean to pressure support, wean FiO2 as
   tolerated. maintain at high PEEP. plan for tracheostomy monday in the
   OR by thoracics. Keep total body balance even. Likely underlying
   pulmonary HTN.
 HTN: continue home meds.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-21**] 03:50 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He remains ventilated though there
s been some improvement on the
   vent.
   Exam notable for:   Tmax: 38.1
C (100.5
F)  Tcurrent: 36.7
C (98.1
F)   HR: 99 (88 - 113) bpm  BP: 144/80(100) {114/66(84) - 149/98(112)}
   mmHg    RR: 20 (15 - 22) insp/min  SpO2: 95%   Balance:   -199 mL
   CMV 16/500/12/0.5 PIP: 32 cmH2O  Plateau: 25 cmH2O   SpO2: 95%
   7.41/55/76    Ve: 11.6 L/min   PaO2 / FiO2: 152
   Intubated, sedated
   Nasal tube
   Hrt rrr
   Lung clear anteriorly
   Abd benign
   Extrem trace edema
   Labs reviewed and recorded above
   Imaging: CXR reviewed, improved aeration though persistent infiltrates
   Problems:  resp failure, pna, ARDS, OSA
   Agree with plan to continue vent support, abx, wean vent as tolerated
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-22**] 16:00 ------

2134-10-23 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-22**]
   - PM Hct stable
   - Decreased FiO2 to 40% and sat remained stable
   - TFs noted comming out of mouth and OGT improperly placed so OGT
   removed
   - spiked to 100.8
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-22**] 10:00 AM
   Vancomycin - [**2134-10-22**] 08:00 PM
   Aztreonam - [**2134-10-23**] 02:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2134-10-23**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-23**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 89 (89 - 114) bpm
   BP: 139/82(101) {126/69(88) - 149/91(109)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,242 mL
                                                                    467 mL
   PO:
             TF:
                                                                    719 mL
   IVF:
                                                                  1,523 mL
                                                                    467 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    355 mL
   Urine:
                                                                  2,595 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 462 (462 - 469) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.45/56/73.[**Numeric Identifier 218**]/34/12
   Ve: 6.7 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: L inguinal fold
   Labs / Radiology
   173 K/uL
   12.8 g/dL
   126 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   12 mg/dL
   95 mEq/L
   137 mEq/L
   37.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2134-10-21**]  10:08 AM
                             [**2134-10-21**]  03:24 PM
                             [**2134-10-22**]  12:52 AM
                             [**2134-10-22**]  03:30 AM
                             [**2134-10-22**]  04:31 AM
                             [**2134-10-22**]  02:04 PM
                             [**2134-10-22**]  09:43 PM
                             [**2134-10-22**]  11:12 PM
                             [**2134-10-23**]  03:06 AM
                             [**2134-10-23**]  03:18 AM
   WBC
   9.2
   9.3
   Hct
   38.6
   39.6
   37.6
   Plt
   175
   173
   Cr
   0.6
   0.6
   TCO2
   40
   37
   37
   36
   38
   35
   40
   Glucose
   137
   126
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
[**2134-10-21**] 9:44 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure: Significantly improved on vent.
   secondary to O2 administration and decreased respiratory drive. Likely
   has both OSA and OHS given body habitus though never formally
   evaluated.. Concern for possible PNA since pt has secretions and
   occasionally spiking fevers.  FIO2 down to 40%, ABG improving. Concern
   for PNA, sputum with coag + staph, sparse growth.
   - PS trial today
   - f/u culture sensitivity
   - tx for HAP with levaquin/aztreonam and vanco (allergy to PCN), will
   continue until sensitivy returns
   - monitor ABG and O2sats for improvement
   - adjust vent to keep CO2 <70 and Sats in 90s
   - try to obtain OSH MR brain and neuro records
   - will need sleep study once awake
   - appreicate sleep recs
   - CTS to do trach on Monday
   # Altered mental status:  Likely secondary to worsening hypercarbic
   respiratory failure as well as possible NPH.
   - treat underlying respiratory failure
   - F/u if any previous Neuro workup
   - Sleep study eventually
   #HTN: Has been increasing over the past few days.
   - Convert metoprolol from PO to IV
   #Urine: 0 output over last several hours
   - flush foley
   - follow to clear
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   ICU Care
   Nutrition: tube feeds held due to NGT displaced. Will need to replace
   NGT vs hold off feeds and have PEG tube on Monday.
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: h2 blocker
   VAP:  standard protocol
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2134-10-23 12:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51yo M with achondroplasia, morbid obesity, OHA/OHS a/w respiratory
   failure; course complicated by extubation and difficult reintubation,
   now with pneumonia v. aspiration.
   24 Hour Events:
increased respiratory rate and desat on pressure support and changed
   back over to CMV (volume control) overnight
   History obtained from Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2134-10-23**] 02:00 AM
   Vancomycin - [**2134-10-23**] 08:04 AM
   Levofloxacin - [**2134-10-23**] 09:04 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2134-10-23**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-23**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 96 (84 - 114) bpm
   BP: 148/88(109) {126/69(88) - 161/91(112)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,242 mL
                                                                  1,011 mL
   PO:
             TF:
                                                                    719 mL
   IVF:
                                                                  1,523 mL
                                                                  1,011 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    570 mL
   Urine:
                                                                  2,595 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (449 - 767) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.47/47/69/34/8
   Ve: 5.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: intubated, sedated
   Eyes / Conjunctiva: equal, reactive
   Head, Ears, Nose, Throat: nasal ETT
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Distant), regular rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout), no wheezing
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   173 K/uL
   126 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   12 mg/dL
   95 mEq/L
   137 mEq/L
   37.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2134-10-21**]  03:24 PM
                             [**2134-10-22**]  12:52 AM
                             [**2134-10-22**]  03:30 AM
                             [**2134-10-22**]  04:31 AM
                             [**2134-10-22**]  02:04 PM
                             [**2134-10-22**]  09:43 PM
                             [**2134-10-22**]  11:12 PM
                             [**2134-10-23**]  03:06 AM
                             [**2134-10-23**]  03:18 AM
                             [**2134-10-23**]  10:20 AM
   WBC
   9.2
   9.3
   Hct
   38.6
   39.6
   37.6
   Plt
   175
   173
   Cr
   0.6
   0.6
   TCO2
   37
   37
   36
   38
   35
   40
   35
   Glucose
   137
   126
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 Hypercarbic Respiratory Failure: likely acute on chronic
   - failed PS yesterday but will decrease propofol and trial again
   - plan for trach on monday
   - continue bronchodilator therapy
   - therapy for pneumonia as below
 Pneumonia: aspiration v. HAP
   - on aztreonam/levo/vanc
   - recultured this am with fever, will f/u results
 R heart failure/volume overload
   ICU Care
   Nutrition:
   Comments: TF held [**3-8**] tube dysfunction, will plan for PEG with trach on
   Monday
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2134-10-24 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tube feeds still held, will need PEG with trach on Monday
   - Vent changed to PS
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-23**] 09:04 AM
   Vancomycin - [**2134-10-23**] 08:53 PM
   Aztreonam - [**2134-10-24**] 05:41 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-23**] 03:29 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-24**] 01:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 92 (87 - 105) bpm
   BP: 113/60(78) {113/60(78) - 161/95(117)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,893 mL
                                                                    407 mL
   PO:
             TF:
   IVF:
                                                                  1,893 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    325 mL
   Urine:
                                                                  1,845 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (312 - 767) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.39/57/80.[**Numeric Identifier 176**]//7
   Ve: 6.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: L inguinal fold
   Labs / Radiology
   162 K/uL
   13.1 g/dL
   126 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   12 mg/dL
   95 mEq/L
   137 mEq/L
   40.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2134-10-22**]  03:30 AM
                             [**2134-10-22**]  04:31 AM
                             [**2134-10-22**]  02:04 PM
                             [**2134-10-22**]  09:43 PM
                             [**2134-10-22**]  11:12 PM
                             [**2134-10-23**]  03:06 AM
                             [**2134-10-23**]  03:18 AM
                             [**2134-10-23**]  10:20 AM
                             [**2134-10-23**]  02:21 PM
                             [**2134-10-24**]  06:05 AM
   WBC
   9.2
   9.3
   6.9
   Hct
   38.6
   39.6
   37.6
   40.1
   Plt
   175
   173
   162
   Cr
   0.6
   0.6
   TCO2
   36
   38
   35
   40
   35
   36
   Glucose
   137
   126
   Other labs: PT / PTT / INR:13.3/26.0/1.1, Lactic Acid:1.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   [**10-23**] Mycolytic x 2 pending
   [**10-23**] BCx x 2 pending
[**2134-10-23**] 12:41 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-23**]):
      <10 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):
   [**10-21**] UCx negative
[**2134-10-21**] 9:44 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
   [**10-20**] BCx x2 pending
   [**10-23**] CXR
   FINDINGS: Endotracheal tube remains in place, terminating about 3.6 cm
   above
   the carina. Nasogastric tube has been removed. Otherwise, no
   substantial
   change in the appearance of the chest since the recent study performed
   one day
   earlier.
   Assessment and Plan
    51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure: Significantly improved on vent.
   Secondary to O2 administration and decreased respiratory drive. Likely
   has both OSA and OHS given body habitus though never formally
   evaluated.. Concern for possible PNA since pt has secretions and
   occasionally spiking fevers.  Concern for PNA, sputum with coag +
   staph, sparse growth.
   - continue PS
 CTS to do trach on Monday
   - f/u culture data
   - tx for staph in sputum, will continue vanco (allergy to PCN), will
   check trough on Tuesday
   - d/c levaquin/aztreonam
   - monitor ABG and O2sats for improvement
   - adjust vent to keep CO2 <70 and Sats in 90s
   - try to obtain OSH MR brain and neuro records
   - will need sleep study once awake
   - appreciate sleep recs
   # Altered mental status:  Likely secondary to worsening hypercarbic
   respiratory failure as well as possible NPH.
   - treat underlying respiratory failure
   - F/u if any previous Neuro workup
   - Sleep study in future
   #HTN: Has been increasing over the past few days.
   - Convert metoprolol from PO to IV
   # GU: Urine output now improved with lasix and flushing
   - monitor
   - flush prn
   - will keep even for now, give lasix 20 Iv if needed
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   ICU Care
   Nutrition: tube feeds held due to NGT displaced. Will need to hold off
   feeds for now, will need doboff after trach
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: h2 blocker
   VAP:  standard protocol
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2134-10-24 11:16:00 Physician Attending Progress Note
Chief Complaint: OHS/OSA altered mental status, hypercarbia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Switched to pressure support and tolerating this since yesterday pm. OG
   tube continues to migrate.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-23**] 08:53 PM
   Aztreonam - [**2134-10-24**] 05:41 AM
   Levofloxacin - [**2134-10-24**] 08:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-23**] 03:29 PM
   Famotidine (Pepcid) - [**2134-10-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-24**] 08:00 AM
   Other medications:
   chlorhexidine, metoprolol, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-24**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 98 (87 - 105) bpm
   BP: 130/77(95) {110/56(74) - 160/95(117)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,893 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                  1,893 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    630 mL
   Urine:
                                                                  1,845 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (312 - 767) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.39/57/80.[**Numeric Identifier 176**]/29/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   13.1 g/dL
   162 K/uL
   94 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   99 mEq/L
   138 mEq/L
   40.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2134-10-22**]  03:30 AM
                             [**2134-10-22**]  04:31 AM
                             [**2134-10-22**]  02:04 PM
                             [**2134-10-22**]  09:43 PM
                             [**2134-10-22**]  11:12 PM
                             [**2134-10-23**]  03:06 AM
                             [**2134-10-23**]  03:18 AM
                             [**2134-10-23**]  10:20 AM
                             [**2134-10-23**]  02:21 PM
                             [**2134-10-24**]  06:05 AM
   WBC
   9.2
   9.3
   6.9
   Hct
   38.6
   39.6
   37.6
   40.1
   Plt
   175
   173
   162
   Cr
   0.6
   0.6
   0.5
   TCO2
   36
   38
   35
   40
   35
   36
   Glucose
   137
   126
   94
   Other labs: PT / PTT / INR:13.3/26.0/1.1, Lactic Acid:1.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR stable
   Assessment and Plan
 FEVER:
   Treating MSSA HAP with vanco as he has a PCN allergy, target trough's
   of 15-20. Treat for 8days. d/c aztreonam, levo.
 Altered mental status:
   will continue daily wake up.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): OSA/OHS, RV failure,
   Pulmonary HTN
   Continue to keep even, with lasix as needed. Plan for trach tomorrow
Nutirion:  no enteral access for now, will placed NG tube or dobhoff
   post placement of trach tomorrow, will hold off on PEG as it is
   unlikely he will need long term alternative enteral access.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2134-10-25 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-10-24**] 08:38 PM
 URINE CULTURE - At [**2134-10-24**] 08:38 PM
 FEVER - 101.8
F - [**2134-10-25**] 12:00 AM
   - vanco approval obtained
   - updated wife
   - attempted NGT placement but unsuccessful
   - d/c aztreonam and levo
   - decreased PS to 10
   - spike 101 --> cultured
   - maculopapular rash on all 4 extremities, added diff
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2134-10-24**] 05:41 AM
   Levofloxacin - [**2134-10-24**] 08:00 AM
   Vancomycin - [**2134-10-25**] 12:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-24**] 08:00 PM
   Propofol - [**2134-10-24**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-25**] 12:00 AM
   Metoprolol - [**2134-10-25**] 02:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-25**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.4
   HR: 90 (88 - 104) bpm
   BP: 119/63(82) {110/56(74) - 145/84(103)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,870 mL
                                                                    566 mL
   PO:
             TF:
   IVF:
                                                                  1,870 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  1,793 mL
                                                                    500 mL
   Urine:
                                                                  1,793 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (235 - 404) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.36/58/91.[**Numeric Identifier 143**]/31/4
   Ve: 6.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: L inguinal fold
   Labs / Radiology
   165 K/uL
   12.8 g/dL
   103 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   11 mg/dL
   99 mEq/L
   140 mEq/L
   38.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2134-10-23**]  03:06 AM
                             [**2134-10-23**]  03:18 AM
                             [**2134-10-23**]  10:20 AM
                             [**2134-10-23**]  02:21 PM
                             [**2134-10-24**]  06:05 AM
                             [**2134-10-24**]  06:16 PM
                             [**2134-10-24**]  10:16 PM
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
   WBC
   9.3
   6.9
   5.1
   Hct
   37.6
   40.1
   38.9
   Plt
   173
   162
   165
   Cr
   0.6
   0.5
   0.5
   TCO2
   40
   35
   36
   36
   33
   33
   34
   Glucose
   126
   94
   103
   Other labs: PT / PTT / INR:13.3/26.0/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   [**10-24**] Ucx pending
   [**10-24**] BCx x 2 pending
   [**10-23**] Mycolytics pending
   [**10-23**] BCx pending
[**2134-10-23**] 12:41 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-23**]):
      <10 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   [**10-24**] CXR
   Compared to the prior study, the ETT remains in place, approximately
   4.2 cm
   above the carina. Shallow level of inspiration is again observed. There
   is
   retrocardiac density and linear atelectatic changes as well as left
   effusion.
   IMPRESSION: No significant interval change versus prior with continued
   findings as described above.
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure: Significantly improved on vent. PS
   weaned down yesterday.  Secondary to O2 administration and decreased
   respiratory drive. Likely has both OSA and OHS given body habitus
   though never formally evaluated.. Concern for possible PNA since pt has
   secretions and occasionally spiking fevers.  Concern for PNA, sputum
   with coag + staph, sparse growth.
   - Trach today by CTS
   - f/u culture data
   - tx for staph in sputum, will continue vanco (allergy to PCN), f/u
   vanco trough
   - monitor ABG and O2sats for improvement
   - try to obtain OSH MR brain and neuro records
   - will need sleep study once awake
   - appreciate sleep recs
   # Fever: 101 overnight
   - f/u culture data
   - trend fever curve
   - send c. diff
   # Altered mental status:  Likely secondary to worsening hypercarbic
   respiratory failure as well as possible NPH.
   - treat underlying respiratory failure
   - F/u if any previous Neuro workup
   - Sleep study in future
   #HTN: Has been increasing over the past few days.
   - Continuet metoprolol from PO to IV
   # GU: Urine output now improved with lasix and flushing
   - monitor
   - flush prn
   - will keep even for now, give lasix 20 Iv if needed
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   ICU Care
   Nutrition: Needs Dobhoff/NGT after trach
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: h2 blocker
   VAP:  standard protocol
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU, start dispo planning with CM

2134-10-25 10:51:00 Physician Attending Progress Note
Chief Complaint: OSA/OHS, MSSA pneumonia, Respiratory failure.
   Achondroplasia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Fever to 101.8, blood and urine culture updated.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2134-10-24**] 05:41 AM
   Levofloxacin - [**2134-10-24**] 08:00 AM
   Vancomycin - [**2134-10-25**] 12:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2134-10-24**] 11:00 PM
   Metoprolol - [**2134-10-25**] 02:01 AM
   Famotidine (Pepcid) - [**2134-10-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-25**] 08:00 AM
   Other medications:
   terazosin, spironlactone, famotidine, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-25**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.3
C (99.1
   HR: 87 (87 - 104) bpm
   BP: 127/80(96) {111/63(82) - 145/84(103)} mmHg
   RR: 27 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,870 mL
                                                                    779 mL
   PO:
             TF:
   IVF:
                                                                  1,870 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  1,793 mL
                                                                    655 mL
   Urine:
                                                                  1,793 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (235 - 404) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 94%
   ABG: 7.36/58/91.[**Numeric Identifier 143**]/31/4
   Ve: 6.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, nasal endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: maculopapular upper and LE and chest.
   Neurologic: Attentive, Responds to: Unresponsive, Movement: No
   spontaneous movement, Tone: Normal
   Labs / Radiology
   12.8 g/dL
   165 K/uL
   103 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   11 mg/dL
   99 mEq/L
   140 mEq/L
   38.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2134-10-23**]  03:06 AM
                             [**2134-10-23**]  03:18 AM
                             [**2134-10-23**]  10:20 AM
                             [**2134-10-23**]  02:21 PM
                             [**2134-10-24**]  06:05 AM
                             [**2134-10-24**]  06:16 PM
                             [**2134-10-24**]  10:16 PM
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
   WBC
   9.3
   6.9
   5.1
   Hct
   37.6
   40.1
   38.9
   Plt
   173
   162
   165
   Cr
   0.6
   0.5
   0.5
   TCO2
   40
   35
   36
   36
   33
   33
   34
   Glucose
   126
   94
   103
   Other labs: PT / PTT / INR:13.3/26.0/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR ETT in good position. otherwise stable.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA);
   Pancutlure including send C.diff. Continue vanco for MSSA given pCN
   allergy. Fever may be drug reaction in associated with maculopapular
   rash.
 Maculopapular rash: maybe delayed related to aztreonam and no other
   major culprit medication currently. Will monitor.
 Constipation: check KUB to assess,  trail of reglan iv if this is
   negative, try bisacodyl pr
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): plan for trach unclear
   timing, possibly today. Start diuresis goal -1L. Will obtain Outpatient
   neuro records.
   ICU Care
   Nutrition:
   Comments: no enteral access will place post pyloric nasal dobhoff post
   Trach placement.
   Glycemic Control:  Comments: not needed
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Respiratory failure due to a combination of staph pna, effusions, CHF,
   OSA with cor pulmonale and poor mental status. He has made some
   improvements on the vent though spiked a fever yesterday. Micro eval is
   ongoing. Trach placement to occur this week.
   Exam notable for
   Tmax: 38.8
C (101.8
   Tcurrent: 37.3
C (99.1
   HR: 87 (87 - 104) bpm
   BP: 127/80(96) {111/63(82) - 145/84(103)} mmHg
   RR: 27 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,870 mL
                                                                    779 mL
   PO:
             TF:
   IVF:
                                                                  1,870 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  1,793 mL
                                                                    655 mL
   Urine:
                                                                  1,793 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (235 - 404) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 94%
   ABG: 7.36/58/91.[**Numeric Identifier 143**]/31/4
   Ve: 6.4 L/min
   PaO2 / FiO2: 230
   Intubated, sedated, awake at times and interactive
   Hrt RRR
   Lung decreased at bases
   Abd benign
   Extreme trace edema
   Skin new rash
   Labs reviewed and recorded above
   Imaging: CXR improved effusion on left and infiltrates on right, ETT OK
   Problems: fever, resp failure, pna, effusion, OSA, cor pulmonale, new
   rash
   Agree with plan to follow micro studies, cont vanco, diurese, trach
   placement
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-25**] 14:51 ------

2134-10-26 06:45:00 Physician Resident Progress Note
24 Hour Events:
   -AXR showed no obstruction
   -started on reglan and bisacodyl- still no BM
   -trach bumped by thoracics until Wed
   -started on d10@20cc/hr
   -given 20mg IV lasix, put out well but later became hypotensive
   -repeated 10mg IV lasix once  BP improved
   -wife updated
   -[**Name2 (NI) 1350**] appeared more confluent on extremities and now involving abdomen
   -spiked low grade temp this am, cultured
   -still quite somnolent
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2134-10-24**] 05:41 AM
   Levofloxacin - [**2134-10-24**] 08:00 AM
   Vancomycin - [**2134-10-26**] 12:42 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-25**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-26**] 12:42 AM
   Metoprolol - [**2134-10-26**] 02:00 AM
   Furosemide (Lasix) - [**2134-10-26**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-26**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 87 (80 - 101) bpm
   BP: 111/59(77) {97/51(68) - 137/91(321)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,050 mL
                                                                    671 mL
   PO:
             TF:
   IVF:
                                                                  2,050 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    271 mL
   Urine:
                                                                  2,120 mL
                                                                    271 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 358) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.33/66/98.[**Numeric Identifier 176**]/31/5
   Ve: 7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, [**Numeric Identifier **]: L inguinal fold
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   13.3 g/dL
   103 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   100 mEq/L
   141 mEq/L
   40.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2134-10-23**]  02:21 PM
                             [**2134-10-24**]  06:05 AM
                             [**2134-10-24**]  06:16 PM
                             [**2134-10-24**]  10:16 PM
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
   WBC
   6.9
   5.1
   5.3
   Hct
   40.1
   38.9
   40.9
   Plt
   162
   165
   174
   Cr
   0.5
   0.5
   0.6
   0.5
   TCO2
   36
   36
   33
   33
   34
   36
   Glucose
   94
   103
   131
   103
   Other labs: PT / PTT / INR:13.3/26.0/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   [**10-26**] Stool cultures: pending
   [**10-26**] BCx: pending
   [**10-24**] BCx: pending
   [**10-24**] UCx: neg
   [**10-23**] mycolytic cx: pending
   [**10-23**] BCx: pending
   [**10-25**] AXR:
   Visualization is markedly limited by patient's body habitus. The bowel
   gas
   pattern appears unremarkable. No definite free air or air-fluid levels
   are
   seen.
   Cardiomegaly is present. There is a moderate left pleural effusion.
   There
   are bibasilar pulmonary infiltrates, which may represent consolidation
   versus
   atelectasis.
   IMPRESSION: Limited examination, no evidence for obstruction.
   [**10-25**] CXR
   IMPRESSION: AP chest compared to [**10-23**] and 20:
   Lung volumes remain quite low, and pulmonary vasculature and
   mediastinal veins
   are engorged indicating cardiac decompensation, although there is no
   appreciable pulmonary edema. Opacification at the lung bases,
   particular of
   the left represents substantial atelectasis. Pleural effusions if any
   are
   small. ET tube in standard placement. No pneumothorax.
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure: Significantly improved on vent. PS
   weaned down yesterday.  Secondary to O2 administration and decreased
   respiratory drive. Likely has both OSA and OHS given body habitus
   though never formally evaluated.. Concern for possible PNA since pt has
   secretions and occasionally spiking fevers.  Concern for PNA, sputum
   with coag + staph, sparse growth.
   - Trach planned by CTS on Wed
   - f/u culture data
   - tx for staph in sputum, will continue vanco (allergy to PCN) x 8
   days, f/u vanco trough
   - monitor ABG and O2sats for improvement
   - try to obtain OSH MR brain and neuro records
   - will need sleep study once awake
   - appreciate sleep recs
   - diurese to aim even to -500 cc today
   - continue current vent settings
   # Fever: continues to have low grade fevers. Likely secondary to
   pneumonia as well as drug [**Month (only) 1350**].
   - f/u culture data
   - trend fever curve
   - resend UA
   # Constipation: continue reglan and BM meds
   #HTN: Has been increasing over the past few days.
   - Continue IV lopressor
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   ICU Care
   Nutrition: No enteral access currently, on D10 infusion gtt, consider
   NGT today
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
 trach now

2134-10-26 11:42:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2134-10-26**] 06:49 AM. Small BM x2.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2134-10-24**] 05:41 AM
   Levofloxacin - [**2134-10-24**] 08:00 AM
   Vancomycin - [**2134-10-26**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-26**] 04:45 AM
   Famotidine (Pepcid) - [**2134-10-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-26**] 08:00 AM
   Metoprolol - [**2134-10-26**] 08:00 AM
   Other medications:
   terazosin, spironolactone, tesslon, chlorhexidine, propofol 50,
   famotidine, lopressor, reglan, ipratropium , miconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-26**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 83 (80 - 101) bpm
   BP: 113/76(89) {97/51(68) - 135/91(321)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,050 mL
                                                                  1,232 mL
   PO:
             TF:
   IVF:
                                                                  2,050 mL
                                                                  1,232 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,021 mL
   Urine:
                                                                  2,120 mL
                                                                  1,021 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 554 (322 - 554) mL
   PS : 14 cmH2O
   RR (Spontaneous): 11
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.35/56/99.[**Numeric Identifier 508**]/31/3
   Ve: 4.9 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   174 K/uL
   103 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   100 mEq/L
   141 mEq/L
   40.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2134-10-24**]  06:05 AM
                             [**2134-10-24**]  06:16 PM
                             [**2134-10-24**]  10:16 PM
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
   WBC
   6.9
   5.1
   5.3
   Hct
   40.1
   38.9
   40.9
   Plt
   162
   165
   174
   Cr
   0.5
   0.5
   0.6
   0.5
   TCO2
   36
   33
   33
   34
   36
   32
   Glucose
   94
   103
   131
   103
   Other labs: PT / PTT / INR:13.3/26.0/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION:
    on D10W because of lack of enteral access, awaiting tracheostomy tube
   and placement of NG tube.
 CONSTIPATION (OBSTIPATION, FOS):
   continue reglan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):
   persistent low grade fever, pancultures all negative to date. white
   count within normal limits. Will resend U/A today, may be resolving
   drug reaction.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): awaiting trach, wean
   pressure support as tolerated. Treating MSSA pneumonia.
   ICU Care
   Nutrition:
   Comments: D10W at 20.
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-19**] 08:43 PM
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Exam notable for
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 83 (80 - 101) bpm
   BP: 113/76(89) {97/51(68) - 135/91(321)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,050 mL
                                                                  1,232 mL
   PO:
             TF:
   IVF:
                                                                  2,050 mL
                                                                  1,232 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,021 mL
   Urine:
                                                                  2,120 mL
                                                                  1,021 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 554 (322 - 554) mL
   PS : 14 cmH2O
   RR (Spontaneous): 11
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.35/56/99.[**Numeric Identifier 508**]/31/3
   Ve: 4.9 L/min
   PaO2 / FiO2: 250
   Intubated, sedated
   Decreased BS
   Hrt rrr
   Abd benign
   Extreme trace edema
   Labs reviewed and recorded above
   Problems: resp failure, staph pna, atelectasis/effusions, OSA, cor
   pulmonale, low-grade fevers
   Agree with plan to trach, wean vent, cont abx, follow fever curve,
   needs new NGT
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-26**] 12:56 ------

2134-10-27 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trach planned for Wednesday, consent obtained
   - Family updated
   - C. diff negative.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-24**] 08:00 AM
   Vancomycin - [**2134-10-27**] 12:40 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-26**] 01:50 PM
   Famotidine (Pepcid) - [**2134-10-26**] 09:46 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-27**] 12:40 AM
   Metoprolol - [**2134-10-27**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-27**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 81 (69 - 89) bpm
   BP: 105/99(102) {97/64(80) - 148/99(107)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,194 mL
                                                                    601 mL
   PO:
             TF:
   IVF:
                                                                  2,194 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,888 mL
                                                                    267 mL
   Urine:
                                                                  1,888 mL
                                                                    267 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (358 - 554) mL
   PS : 14 cmH2O
   RR (Spontaneous): 13
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.34/61/81.[**Numeric Identifier 508**]/32/4
   Ve: 5 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Pulm: no significant crackles/wheezes
   Abd: protuberant but soft.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Skin:  Not assessed
   Neurologic: sedated on exam
   Labs / Radiology
   190 K/uL
   13.0 g/dL
   99 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   11 mg/dL
   99 mEq/L
   140 mEq/L
   40.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2134-10-24**]  10:16 PM
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
   WBC
   5.1
   5.3
   6.6
   Hct
   38.9
   40.9
   40.4
   Plt
   165
   174
   190
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   33
   33
   34
   36
   32
   34
   Glucose
   103
   131
   103
   99
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure:  Remains on antibiotic therapy for
   possible pneumonia, on day 7 of Vanc.
   - Trach planned by CTS for today
   - tx for staph in sputum, will continue vanco (allergy to PCN) x 8
   days, f/u vanco trough
   - monitor ABG and O2sats for improvement
   - try to obtain OSH MR brain and neuro records; still pending
   - diurese to aim even to -500 cc today, 10mg IV furosemide
   - continue current vent settings
   # Fever: Fever curve trending down, Tm 100. Likely secondary to
   pneumonia as well as drug rash. c.diff, u/a negative.
   -monitor, CIS
   # Constipation: Cdiff negative. Had small BM yesterday
   -continue reglan and BM meds
   #HTN: Well controlled
   - Continue IV lopressor
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin although not receiving PO
   Nutrtion: will place ngt for tube feeds after trach.
   ICU Care
   Nutrition: NPO for procedure now
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2134-10-27 10:24:00 Physician Attending Progress Note
Chief Complaint: OSA/OHS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   C.diff negative. Status stable awaiting tracheostomy this am.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-27**] 08:45 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-26**] 01:50 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-27**] 12:40 AM
   Metoprolol - [**2134-10-27**] 02:00 AM
   Famotidine (Pepcid) - [**2134-10-27**] 08:45 AM
   Other medications:
   heparin s/c, chlorhexidine, ipratropium, vanco, reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-27**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 90 (69 - 90) bpm
   BP: 107/69(61) {97/64(61) - 148/111(116)} mmHg
   RR: 25 (10 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,194 mL
                                                                  1,027 mL
   PO:
             TF:
   IVF:
                                                                  2,194 mL
                                                                  1,027 mL
   Blood products:
   Total out:
                                                                  1,888 mL
                                                                    567 mL
   Urine:
                                                                  1,888 mL
                                                                    567 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (358 - 508) mL
   PS : 14 cmH2O
   RR (Spontaneous): 13
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 93%
   ABG: 7.34/61/81.[**Numeric Identifier 508**]/32/4
   Ve: 4.4 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, maculopapular rash fading
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.0 g/dL
   190 K/uL
   99 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   11 mg/dL
   99 mEq/L
   140 mEq/L
   40.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2134-10-24**]  10:16 PM
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
   WBC
   5.1
   5.3
   6.6
   Hct
   38.9
   40.9
   40.4
   Plt
   165
   174
   190
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   33
   33
   34
   36
   32
   34
   Glucose
   103
   131
   103
   99
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Vanco trough
   Microbiology: C.diff negative
   Assessment and Plan
 ALTERATION IN NUTRITION:
   continues on D10W, will have dobhoff placed on OR today
 CONSTIPATION (OBSTIPATION, FOS):
   resolved
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):
   defervesced, completes Vancomcyin tomorrow for MSSA.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   wake up after trach placement and attempt trach collar. Diurese -1-2L.
   ICU Care
   Nutrition:
   Comments: D10W
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Remains stable on the vent
 trach to happen today.
   Exam notable for
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 90 (69 - 90) bpm
   BP: 107/69(61) {97/64(61) - 148/111(116)} mmHg
   RR: 25 (10 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,194 mL
                                                                  1,027 mL
   PO:
             TF:
   IVF:
                                                                  2,194 mL
                                                                  1,027 mL
   Blood products:
   Total out:
                                                                  1,888 mL
                                                                    567 mL
   Urine:
                                                                  1,888 mL
                                                                    567 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (358 - 508) mL
   PS : 14 cmH2O
   RR (Spontaneous): 13
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 93%
   ABG: 7.34/61/81.[**Numeric Identifier 508**]/32/4
   Ve: 4.4 L/min
   PaO2 / FiO2: 205
   Intubated, sedated, no distress
   Hrt rrr
   Lungs decreased bases
   Abd benign
   Extreme mild edema
   Labs reviewed and documented above
   Imaging: CXR worsening bilateral infiltrates, effusions
   Problems: resp failure, effusions, pna, OSA, cor pulmonale
   Agree with plan to trach today then wean vent further, diurese,
   complete abx
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-27**] 14:29 ------

2134-10-28 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-10-27**] 07:00 PM
   - trach with NGT placed
   - paged sleep with FYI page regarding pt's trach today
   - lasix 10 IV x 2
   - s/p trach: weaned sedation, had issues with vent for much of evening
   (? malfunction), so no trach collar attempt
   - [**10-26**] BCx [**2-7**] cultures with gram + cocci in prs/clusters from a-line
   - d/c a-line
   - updated family after trach
   - PEEP decreased 10
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-28**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-27**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (96.9
   HR: 100 (73 - 103) bpm
   BP: 128/73(86) {118/30(52) - 141/75(88)} mmHg
   RR: 13 (11 - 55) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 53 Inch
             Total In:
                                                                  2,078 mL
                                                                    393 mL
   PO:
             TF:
   IVF:
                                                                  2,048 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  1,637 mL
                                                                    550 mL
   Urine:
                                                                  1,637 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    441 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 495 (384 - 495) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 25 cmH2O
   Plateau: 26 cmH2O
   Compliance: 0 cmH2O/mL
   SpO2: 96%
   ABG: ///25/
   Ve: 6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, maculopapular rash fading
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   197 K/uL
   12.8 g/dL
   103 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   38.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
   WBC
   5.1
   5.3
   6.6
   7.1
   Hct
   38.9
   40.9
   40.4
   38.8
   Plt
   165
   174
   190
   197
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   33
   34
   36
   32
   34
   Glucose
   103
   131
   103
   99
   103
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan:
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure:  Remains on antibiotic therapy for
   possible pneumonia, on day 7 of Vanc.
   - Trach planned by CTS for today
   - tx for staph in sputum, will continue vanco (allergy to PCN) x 8
   days, f/u vanco trough
   - monitor ABG and O2sats for improvement
   - try to obtain OSH MR brain and neuro records; still pending
   - diurese to aim even to -500 cc today, 10mg IV furosemide
   - continue current vent settings
   # Fever: Fever curve trending down, Tm 100. Likely secondary to
   pneumonia as well as drug rash. c.diff, u/a negative.
   -monitor, CIS
   # Constipation: Cdiff negative. Had small BM yesterday
   -continue reglan and BM meds
   #HTN: Well controlled
   - Continue IV lopressor
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin although not receiving PO
   Nutrtion: will place ngt for tube feeds after trach.
   ICU Care
   Nutrition: NPO for procedure now
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-10-20**] 07:35 AM
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2134-10-28 10:43:00 Physician Attending Progress Note
Chief Complaint: OSA/OHS, MSSA pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-10-27**] 07:00 PM
   [**2-7**] GPC in A-line.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-28**] 09:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-28**] 09:10 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-28**] 09:10 AM
   Other medications:
   Aldactone, terazosin, chlorhexidine, metoprolol, colace, pepcid,
   vancomycin 1g iv, ipratropium nebs.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-28**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 121 (73 - 121) bpm
   BP: 154/52(74) {118/30(52) - 154/75(88)} mmHg
   RR: 27 (11 - 55) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 53 Inch
             Total In:
                                                                  2,078 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                  2,048 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,637 mL
                                                                    750 mL
   Urine:
                                                                  1,637 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    441 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 384 (384 - 495) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 10 cmH2O
   Plateau: 26 cmH2O
   Compliance: 0 cmH2O/mL
   SpO2: 96%
   ABG: ///25/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, rash overall fading, one area overlying right chest seems
   to be diffusely erythematous.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.8 g/dL
   197 K/uL
   103 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   38.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
   WBC
   5.1
   5.3
   6.6
   7.1
   Hct
   38.9
   40.9
   40.4
   38.8
   Plt
   165
   174
   190
   197
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   33
   34
   36
   32
   34
   Glucose
   103
   131
   103
   99
   103
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR with NG in good position.
   Microbiology: BAL 2+ PMN
   [**2-7**] blood culture from A-line + GPC
   Assessment and Plan
 ALTERATION IN NUTRITION:
   contineu tube feeds.
 CONSTIPATION (OBSTIPATION, FOS);
   colace/senna
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   resolved.
 IMPAIRED SKIN INTEGRITY:
   rash improving overall
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   continue Iv lasix diurese for -1L. Continue to wean vent and attempt PS
   trial
 Bacteremia: s/p removal of A-line, will draw 2 set of blood cultures
   today for surveillance, continue vanco until organism is speciated.
   ICU Care
   Nutrition: tube feeds.
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2134-10-28 10:44:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   underwent trach yesterday, was trach masking for 3 hours this morning.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-10-27**] 07:00 PM
   History obtained from housestaff
   Patient unable to provide history: on vent
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-28**] 09:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-28**] 09:10 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-28**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-28**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 121 (73 - 121) bpm
   BP: 154/52(74) {118/30(52) - 154/75(88)} mmHg
   RR: 27 (11 - 55) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 53 Inch
             Total In:
                                                                  2,078 mL
                                                                    739 mL
   PO:
             TF:
   IVF:
                                                                  2,048 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  1,637 mL
                                                                    750 mL
   Urine:
                                                                  1,637 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    441 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 384 (384 - 495) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 10 cmH2O
   Plateau: 26 cmH2O
   Compliance: 0 cmH2O/mL
   SpO2: 96%
   ABG: ///25/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   12.8 g/dL
   197 K/uL
   103 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   38.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2134-10-25**]  04:18 AM
                             [**2134-10-25**]  04:25 AM
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
   WBC
   5.1
   5.3
   6.6
   7.1
   Hct
   38.9
   40.9
   40.4
   38.8
   Plt
   165
   174
   190
   197
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   33
   34
   36
   32
   34
   Glucose
   103
   131
   103
   99
   103
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE - due to staph pna, effusion, CHF, cor pulmonale.
   completing abx today, diurese. continue to work on trach masking.
   ? bacteremia - await ID of species, was drawn from a-line which has
   been removed.
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2134-10-29 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -tried tach collar in am, tolerated a couple of hours and then had
   increased secretions
   -neg 800cc at midnight
   -started standing lasix
   -had 3 formed stools
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-29**] 07:36 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-28**] 08:00 PM
   Morphine Sulfate - [**2134-10-29**] 12:00 AM
   Furosemide (Lasix) - [**2134-10-29**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-29**] 07:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-29**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 94 (89 - 121) bpm
   BP: 133/61(76) {105/40(63) - 168/83(96)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,074 mL
                                                                    759 mL
   PO:
             TF:
             159 mL
   IVF:
                                                                  1,074 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    580 mL
   Urine:
                                                                  1,985 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -911 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 287 (287 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///33/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, maculopapular rash fading
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   More awake today.
   Labs / Radiology
   216 K/uL
   13.4 g/dL
   111 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   9 mg/dL
   99 mEq/L
   141 mEq/L
   41.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
   WBC
   5.3
   6.6
   7.1
   9.4
   Hct
   40.9
   40.4
   38.8
   41.7
   Plt
   174
   190
   197
   216
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   34
   36
   32
   34
   Glucose
   131
   103
   99
   103
   152
   111
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   [**10-23**] Mycolytic: pending
   [**10-24**] BCx: pending
[**2134-10-26**] [**2-7**] 6:45 am BLOOD CULTURE      Source: Line-Aline.
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.
         ISOLATED FROM ONE SET ONLY SENSITIVITIES PERFORMED ON REQUEST..
   Anaerobic Bottle Gram Stain (Final [**2134-10-27**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] #[**Numeric Identifier **], AT 1420, [**2134-10-27**].
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2134-10-27**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   [**10-26**] c.diff negative
   [**10-26**] urine culture negative
[**10-27**] sputum culture: Time Taken Not Noted     Log-In Date/Time: [**2134-10-27**] 6:13 pm
      BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2134-10-27**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   ACID FAST SMEAR (Final [**2134-10-28**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   [**10-28**] B Cx pending
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   .
   # Hypercarbic respiratory failure:  Appears to be doing well on trach
   collar. Remains on antibiotic therapy for possible pneumonia, last day
   of vanc. CXR with bilateral infiltrates.
   -          VBG after trach collar
   -          furosemide for diuresis,  needs to be negative given
   pulmonary congestion and left sided predominant effusion
   -          goal 1-1.5L negative with 20mg lasix QID
   -          follow [**Hospital1 7**] elytes
   -          cont home spironolactone
   # Fever: Fever curve trending down.
   -f/u BAL
   -cont Vanc for another 24 hours of negative surveillence blood cultures
   # Constipation: Cdiff negative.  On bowel regimen
   #HTN: Well controlled
   - on home dose atenolol
   .
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH - on terazosin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-29**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU / start rehab planning ?

2134-10-29 11:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   3 Bm after TF were started.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-29**] 07:36 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-28**] 08:00 PM
   Morphine Sulfate - [**2134-10-29**] 12:00 AM
   Furosemide (Lasix) - [**2134-10-29**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-29**] 07:36 AM
   Other medications:
   aldactone, terazosin, heparin s/c, tesslon, chlorhexidine, colace,
   vancomycin, ipratropium, atenolol, famotidine, lasix 20 iv q8
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-29**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 85 (85 - 116) bpm
   BP: 153/82(99) {105/44(63) - 168/83(99)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  1,074 mL
                                                                    917 mL
   PO:
             TF:
             231 mL
   IVF:
                                                                  1,074 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    670 mL
   Urine:
                                                                  1,985 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -911 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 287 (287 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///33/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, rash resolved.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.4 g/dL
   216 K/uL
   111 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   9 mg/dL
   99 mEq/L
   141 mEq/L
   41.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-10-25**]  06:24 AM
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
   WBC
   5.3
   6.6
   7.1
   9.4
   Hct
   40.9
   40.4
   38.8
   41.7
   Plt
   174
   190
   197
   216
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   34
   36
   32
   34
   Glucose
   131
   103
   99
   103
   152
   111
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR stable bilateral effusions, and multifocal airspace
   disease vs pulmonary edema.
   Microbiology: blood cultures negative to date
   BAL negative to date.
   Assessment and Plan
 ALTERATION IN NUTRITION:
   continue tube feeds as tolerated
 CONSTIPATION (OBSTIPATION, FOS);
   resolved.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   resolved. MSSA pneumonia + drug fever to aztreonam. continue vanco x
   another 24hours and r/a.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]);
   continue TC trials. Check VBG tonight. Continue diuresis lasix 20mg iv
   q6hours
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-29**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   He is doing well trach masking this morning. He appear sleepy though is
   arousable and interactive when awake. He reports some dyspnea though
   doesn
t appear in distress.
   The goal going forward will be to have him trach mask for periods as
   long as possible. He is completing his antibiotic course and diuresis
   efforts are continuing. He will be transferred to rehab shortly.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-29**] 11:57 ------

2134-10-30 07:27:00 Physician Resident Progress Note
24 Hour Events:
 PAN CULTURE - At [**2134-10-29**] 08:30 PM
 FEVER - 101.4
F - [**2134-10-30**] 04:00 AM
   - spiked fever to 101, and was pancultred.
   - tolerated trach collar for the majority of the day.
   - diuresed with furosemide 40mg IV q6h
   - increased anxiety at night, received 1mg ativan
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-29**] 04:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-29**] 04:34 PM
   Lorazepam (Ativan) - [**2134-10-30**] 12:00 AM
   Furosemide (Lasix) - [**2134-10-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-30**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 97 (81 - 102) bpm
   BP: 121/45(60) {107/38(50) - 158/87(136)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
                  Total In:
                                                                  1,971 mL
                                                                    539 mL
   PO:
                  TF:
                                                                    822 mL
                                                                    409 mL
   IVF:
                                                                    840 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    780 mL
   Urine:
                                                                  2,150 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -179 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 287 (287 - 443) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, maculopapular rash fading
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   More awake today.
   Labs / Radiology
   217 K/uL
   12.5 g/dL
   156 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.3 mEq/L
   16 mg/dL
   99 mEq/L
   140 mEq/L
   39.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
   WBC
   5.3
   6.6
   7.1
   9.4
   8.3
   Hct
   40.9
   40.4
   38.8
   41.7
   39.0
   Plt
   174
   190
   197
   216
   217
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   0.7
   TCO2
   36
   32
   34
   Glucose
   131
   103
   99
   103
   152
   111
   156
   Other labs: PT / PTT / INR:12.7/25.9/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   [**10-26**] BCx - ALINE
[**2134-10-26**] 6:45 am BLOOD CULTURE      Source: Line-Aline.
                            **FINAL REPORT [**2134-10-29**]**
   Blood Culture, Routine (Final [**2134-10-29**]):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.
         ISOLATED FROM ONE SET ONLY SENSITIVITIES PERFORMED ON REQUEST..
   Anaerobic Bottle Gram Stain (Final [**2134-10-27**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] #[**Numeric Identifier **], AT 1420, [**2134-10-27**].
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2134-10-27**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
[**10-26**] BCx
 PICC pending
[**10-27**] BAL
      BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2134-10-27**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2134-10-29**]):    NO GROWTH, <1000 CFU/ml.
   ACID FAST SMEAR (Final [**2134-10-28**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
[**10-28**] and [**10-29**] BCx pending
[**2134-10-29**] 8:29 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-29**]):
      [**11-28**] PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   CXR [**10-29**]
   Left upper border is obscured by probable moderate left pleural
   effusion.
   Heart size is unchanged over the past several days. Mediastinal
   vascular
   engorgement and pulmonary vascular dilatation have worsened consistent
   with
   volume overload. Mild pulmonary edema is probably present. Tracheostomy
   tube
   is in standard placement and there is no interval mediastinal widening
   or
   pneumomediastinum to suggest complications. Nasogastric tube passes
   below the
   diaphragm and out of view. No pneumothorax.
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   # Fever
   - GNR in sputum is new, suggestive of new nosocomial pneumonia
   - given allergies, will start meropenem, discussed with ID
   - CT to eval for loculations on effusion
   .
   # Hypercarbic respiratory failure:  Appears to be doing well on trach
   collar with periodic vent support.
   -          VBG after trach collar
   -          furosemide for diuresis, goal now even
   -          follow [**Hospital1 7**] lytes
   # Fever: Overnight, spiked fever.  [**Month (only) 51**] be ? SCN bacteremia given a-line
   BCx, but surveillance cultures still no growth to date.  Completed
   course of antibiotics for VAP.  For now, would consider holding off on
   abx.
   - f/u cultures
   - f/u BAL
   - send c. diff
   # Constipation: Cdiff negative.  On bowel regimen
   #HTN: Well controlled
   - continue home dose atenolol
   .
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH: on terazosin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-30**] 02:27 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-10-30 08:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2134-10-29**] 08:30 PM
 FEVER - 101.4
F - [**2134-10-30**] 04:00 AM.  Clx sent as above
   > Tolerated trach collar for most of the day and rested at night
   (Trached this past Wend)
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2134-10-29**] 04:33 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-10-30**] 12:00 AM
   Furosemide (Lasix) - [**2134-10-30**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-30**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 87 (81 - 102) bpm
   BP: 139/75(88) {107/38(50) - 158/87(136)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
                  Total In:
                                                                  1,971 mL
                                                                    692 mL
   PO:
                  TF:
                                                                    822 mL
                                                                    462 mL
   IVF:
                                                                    840 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    880 mL
   Urine:
                                                                  2,150 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -179 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 287 (287 - 443) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial:  mostly in the left
   base, decreased vs the right side.
   Abdominal: Soft, Obese
   Musculoskeletal: Unable to stand
   Ext: warm and well perfused, trace edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   217 K/uL
   156 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.3 mEq/L
   16 mg/dL
   99 mEq/L
   140 mEq/L
   39.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2134-10-25**]  05:07 PM
                             [**2134-10-26**]  04:38 AM
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
   WBC
   5.3
   6.6
   7.1
   9.4
   8.3
   Hct
   40.9
   40.4
   38.8
   41.7
   39.0
   Plt
   174
   190
   197
   216
   217
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   0.7
   TCO2
   36
   32
   34
   Glucose
   131
   103
   99
   103
   152
   111
   156
   Other labs: PT / PTT / INR:12.7/25.9/1.1, Differential-Neuts:65.0 %,
   Lymph:14.9 %, Mono:9.1 %, Eos:10.5 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
[**2134-10-29**] 8:29 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-29**]):
      [**11-28**] PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
[**2134-10-29**] 8:35 pm BLOOD CULTURE      Source: Line-PICC.
   Blood Clx  pending:
   CXR [**10-29**]: left sided pleural effusion (first seen on
   Assessment and Plan
 Fever: pan clx  has had coag neg staph on the A line (which was
   pulled) earlier this [**Doctor Last Name **].  Has PICC ([**10-21**]) . Now with fever yesterday
   (GNR in the sputum from good sample) with left sided effusion which
   appears to have waxed/waned osince 9.16 when it first appeared. Will
   get a non Con CT (to assess if loculated and whether we need to perform
   thoracentesis to sample the space) and also start meropenem given his
   expanded allergy profile for empiric coverage. Also cont Vancomycin
   empiric coverage.   F/u sputum clx. Identitiy.   Also check c. dif
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]);
   Can trial him on TC but has multiple reasons to fail: habitu
   OHV/OSA, fevers, volume overload, deconditioning, PNA and effusion.
   Continue diuresis lasix 40mg iv q6hours (underlying diastolic
   dysfunction) for goal even but he does have insensible losses. In
   addition has this left sided pleural effusion which we will eval as
   above. Empiric CPAP overnight for his sleep disordered breathing and
   assistance with volume overload.
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-30**] 02:27 AM 55 mL/hour
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICIAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Known lastname 901**] with Dr. [**First Name (STitle) 424**], whose note reflects my
   input.  I would add/emphasize that this 51-year-old man with
   achondroplasia, obesity, and probably OHV has persistent respiratory
   failure.  Fever may be related to possible VAP, though following other
   cultures and imaging.  Will continue vanco.  For GNR coverage, he has
   had rashes to multiple beta-lactam-related antibiotics including
   aztreonam and meropenem.  [**Month (only) 51**] need to move to aminoglycoside.  For
   respiratory failure, will continue trials of TC/SBTs.  Evaluation and
   management as per Dr. [**First Name (STitle) 424**]
s note and Dr. [**Last Name (STitle) 2792**]
s note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2134-10-31**] 12:37 AM ------

2134-10-31 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2134-10-30**] 08:00 AM
   - peripheral blood cultures drawn
   - c. diff ordered and sent
   - CT chest - nothing to tap
   - restarted vanco/meropenem, but then got drug rash, ordered for
   benadryl prior to dosing --> pharmacy concerned with [**Last Name (un) 614**]/aztreonam,
   recommended cipro and gent --> check gent trough before 2nd dose (goal
   less than 1.0)
   - propofol gtt for CT chest only
   [ ] need to call wife regarding OSA/OHS/RHF
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2134-10-30**] 06:00 PM
   Vancomycin - [**2134-10-30**] 08:00 PM
   Ciprofloxacin - [**2134-10-30**] 10:00 PM
   Gentamicin - [**2134-10-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-30**] 08:00 AM
   Morphine Sulfate - [**2134-10-30**] 12:00 PM
   Furosemide (Lasix) - [**2134-10-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-31**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 90 (80 - 111) bpm
   BP: 111/56(68) {90/23(40) - 156/83(98)} mmHg
   RR: 22 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  2,310 mL
                                                                    826 mL
   PO:
             TF:
                                                                    866 mL
                                                                    403 mL
   IVF:
                                                                    944 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    470 mL
   Urine:
                                                                  2,070 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                    356 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 281 (233 - 377) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial:  mostly in the left
   base, decreased vs the right side.
   Abdominal: Soft, Obese
   Musculoskeletal: Unable to stand
   Ext: warm and well perfused, trace edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   296 K/uL
   14.0 g/dL
   146 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   21 mg/dL
   96 mEq/L
   140 mEq/L
   42.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
   WBC
   6.6
   7.1
   9.4
   8.3
   9.3
   Hct
   40.4
   38.8
   41.7
   39.0
   42.9
   Plt
   190
   197
   216
   217
   296
   Cr
   0.5
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   TCO2
   36
   32
   34
   Glucose
   99
   103
   152
   111
   156
   146
   Other labs: PT / PTT / INR:12.7/25.9/1.1, Differential-Neuts:77.2 %,
   Lymph:10.1 %, Mono:4.4 %, Eos:7.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan:
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure.
   # Fever
   - GNR in sputum is new, suggestive of new nosocomial pneumonia
   - given allergies, will start meropenem, discussed with ID
   - CT to eval for loculations on effusion
   .
   # Hypercarbic respiratory failure:  Appears to be doing well on trach
   collar with periodic vent support.
   -          VBG after trach collar
   -          furosemide for diuresis, goal now even
   -          follow [**Hospital1 7**] lytes
   # Fever: Overnight, spiked fever.  [**Month (only) 51**] be ? SCN bacteremia given a-line
   BCx, but surveillance cultures still no growth to date.  Completed
   course of antibiotics for VAP.  For now, would consider holding off on
   abx.
   - f/u cultures
   - f/u BAL
   - send c. diff
   # Constipation: Cdiff negative.  On bowel regimen
   #HTN: Well controlled
   - continue home dose atenolol
   .
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH: on terazosin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-30**] 02:27 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-10-31 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2134-10-30**] 08:00 AM
   > Drug rash to meropenem changed to Cipro and gent
                   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2134-10-30**] 06:00 PM
   Vancomycin - [**2134-10-30**] 08:00 PM
   Ciprofloxacin - [**2134-10-30**] 10:00 PM
   Gentamicin - [**2134-10-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2134-10-30**] 12:00 PM
   Furosemide (Lasix) - [**2134-10-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-31**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 90 (80 - 111) bpm
   BP: 111/56(68) {90/23(40) - 156/83(98)} mmHg
   RR: 22 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  2,310 mL
                                                                    870 mL
   PO:
             TF:
                                                                    866 mL
                                                                    444 mL
   IVF:
                                                                    944 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    470 mL
   Urine:
                                                                  2,070 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 330 (233 - 377) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: )
   Abdominal: Soft, Non-tender, No(t) Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, skin mildy erythematous across the lower ext diffusely
   (improved from yesterday afternoon)
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   296 K/uL
   146 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   21 mg/dL
   96 mEq/L
   140 mEq/L
   42.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2134-10-26**]  04:53 AM
                             [**2134-10-26**]  07:08 AM
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
   WBC
   6.6
   7.1
   9.4
   8.3
   9.3
   Hct
   40.4
   38.8
   41.7
   39.0
   42.9
   Plt
   190
   197
   216
   217
   296
   Cr
   0.5
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   TCO2
   36
   32
   34
   Glucose
   99
   103
   152
   111
   156
   146
   Other labs: PT / PTT / INR:12.7/25.9/1.1, Differential-Neuts:77.2 %,
   Lymph:10.1 %, Mono:4.4 %, Eos:7.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
[**2134-10-29**] 8:29 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2134-10-29**]):
      [**11-28**] PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   CXR: appears to have worsening interstitial edema (poor quality film).
   Assessment and Plan
 Fever: pan clx  has had coag neg staph on the A line (which was
   pulled) earlier this [**Doctor Last Name **].  Has PICC ([**10-21**]) . Now with fever yesterday
   (GNR in the sputum from good sample, no growth as of yesterday) CT scan
   did not reveal effusion on the left side (only retrocardiac
   atelectasis). Rash and eosoinophilia  to meropenem so we changed to
   Cipro/Gent.  Also cont Vancomycin empiric coverage (as well as coag neg
   staph in sputum).   F/u sputum clx. Identitiy, no growth to date. .
   Also check c. dif
   Sinusitis is also possible (nasal intubation and NG tube places him at
   risk): since we are not growing out anything from sputum its worth
   evaluating the sinus with CT.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]);
   Can trial him on TC but has multiple reasons to fail: habitu
   OHV/OSA, fevers, volume overload, deconditioning, PNA and effusion.
   Continue diuresis lasix 40mg iv q6hours (underlying diastolic
   dysfunction) for goal even but he does have insensible losses. Empiric
   CPAP overnight for his sleep disordered breathing and assistance with
   volume overload.  Optimize pulm mechanics
OOB to chair
   - Repeat CXR today.
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-10-31**] 02:05 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   18 Gauge - [**2134-10-30**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-11-01 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -scanned sinuses, maxillary
   -Marked worsening of pansinusitis with polypoidal mucosal thickening in
   a multiseptated right maxillary sinus and near complete opacification
   of a multipartite sphenoid sinus.
   -started afrin and nasal saline
   -spiked to 100.8, blood and urine cultures sent, came down onown
   -had a conversation with him, said he was itchy, gave benadryl
   -gent trough low, discuss with pharmacy
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   [[**Doctor First Name **]: Meropenem - [**2134-10-30**] 06:00 PM d/c :[**Doctor First Name **]]
   Vancomycin - [**2134-10-31**] 08:00 PM d12
   Ciprofloxacin - [**2134-10-31**] 10:00 PM d3
   Gentamicin - [**2134-11-1**] 12:00 AM d3
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-31**] 08:00 AM
   Pantoprazole (Protonix) - [**2134-10-31**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-31**] 10:34 PM
   Furosemide (Lasix) - [**2134-11-1**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-11-1**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 72 (71 - 98) bpm
   BP: 123/55(70) {108/40(56) - 135/87(95)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  2,580 mL
                                                                    325 mL
   PO:
             TF:
                                                                    860 mL
   IVF:
                                                                  1,300 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  1,579 mL
                                                                    380 mL
   Urine:
                                                                  1,579 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,001 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 263 (237 - 400) mL
   PC : 15 cmH2O
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///38/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Resp: B/L coarse BS an rhonchi
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   332 K/uL
   12.3 g/dL
   150 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.1 mEq/L
   27 mg/dL
   91 mEq/L
   136 mEq/L
   37.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
                             [**2134-10-31**]  05:39 PM
                             [**2134-10-31**]  11:49 PM
   WBC
   6.6
   7.1
   9.4
   8.3
   9.3
   8.6
   Hct
   40.4
   38.8
   41.7
   39.0
   42.9
   37.7
   Plt
   190
   197
   216
   [**Telephone/Fax (3) 10340**]
   Cr
   0.5
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   1.0
   1.0
   TCO2
   34
   Glucose
   99
   103
   152
   111
   156
   146
   150
   Other labs: PT / PTT / INR:12.7/25.9/1.1, Differential-Neuts:77.2 %,
   Lymph:10.1 %, Mono:4.4 %, Eos:7.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: CT Sinus:
   1. Marked worsening of pansinusitis with polypoidal mucosal thickening
   in a
   multiseptated right maxillary sinus and near complete opacification of
   a
   multipartite sphenoid sinus.
   2. Unchanged ventricular dilation and extensive subcortical and
   periventricular white matter hypoattenuation, better described on prior
   dedicated CT brain studies.
   The study is somewhat limited due to obliquity of patient positioning
   within
   the scanner.
   ADDENDUM :There is moderate soft tissue thickening around the partially
   imaged
   oropharyngeal soft tissues; part of this could be due to enlarged
   lymphoid
   tissue along the Waldeyer ring.
   CXR: Poorly penetrated film; persistent left sided pleural effusion
   Microbiology:
      GRAM STAIN (Final [**2134-10-29**]):
         [**11-28**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2134-10-31**]):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
   [**2134-11-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2134-10-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2134-10-31**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2134-10-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2134-10-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2134-10-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2134-10-29**]  URINE URINE CULTURE-FINAL
   Assessment and Plan
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure, now s/p trach, tolerating collar
   .
   # Fever: GNR in sputum is new, suggestive of new nosocomial pneumonia.
   Increased sputum production on the trach. ? if PICC infection.
   - continue gent/cipro for GNR in sputum x 8 days
   - continue vancomycin for now given still febrile
   -f/u pending blood cultures from [**10-28**] and speciate out coag neg staph
   -f/u subsequent surveillence cultures
   # Sinusitis: likely covered for any bacterial component with
   ciprofloxacin.
   -ENT consult
   -cont afrin and nasal aspiration for 3 days
   # Hypercarbic respiratory failure:  Appears to be doing well on trach
   collar with periodic vent support.
   - trach collar
   - continue standing lasix today, goal remains -500, [**Hospital1 7**] lytes during
   diuresis
   -consult speech for swallow and Passy-Muir valve
   # Constipation: Cdiff negative.  On bowel regimen
   #HTN: Well controlled
   - continue home dose atenolol
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH: on terazosin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   18 Gauge - [**2134-10-30**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-11-01 11:14:00 Physician Attending Progress Note
Chief Complaint: Achondroplasia, OSA/OHS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Diagnosed wit sinusitis on CT, on cipro and gentamycin.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2134-10-30**] 06:00 PM
   Gentamicin - [**2134-11-1**] 12:00 AM
   Vancomycin - [**2134-11-1**] 08:00 AM
   Ciprofloxacin - [**2134-11-1**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-10-31**] 10:00 PM
   Furosemide (Lasix) - [**2134-11-1**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-11-1**] 08:00 AM
   Other medications:
   spirinolactone, terazosin, heparin s/c, colace, chlorhexidine,
   atenolol, lasix, insulin sliding scale, NaCl nasal spray, afrin nasal
   spray
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-11-1**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 81 (68 - 97) bpm
   BP: 120/51(67) {108/40(56) - 135/87(95)} mmHg
   RR: 23 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  2,580 mL
                                                                    757 mL
   PO:
             TF:
                                                                    860 mL
   IVF:
                                                                  1,300 mL
                                                                    757 mL
   Blood products:
   Total out:
                                                                  1,579 mL
                                                                    715 mL
   Urine:
                                                                  1,579 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,001 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 268 (237 - 400) mL
   PC : 15 cmH2O
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   332 K/uL
   150 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.1 mEq/L
   27 mg/dL
   91 mEq/L
   136 mEq/L
   37.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2134-10-27**]  06:00 AM
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
                             [**2134-10-31**]  05:39 PM
                             [**2134-10-31**]  11:49 PM
   WBC
   6.6
   7.1
   9.4
   8.3
   9.3
   8.6
   Hct
   40.4
   38.8
   41.7
   39.0
   42.9
   37.7
   Plt
   190
   197
   216
   [**Telephone/Fax (3) 10340**]
   Cr
   0.5
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   1.0
   1.0
   TCO2
   34
   Glucose
   99
   103
   152
   111
   156
   146
   150
   Other labs: PT / PTT / INR:12.7/25.9/1.1, Differential-Neuts:77.2 %,
   Lymph:10.1 %, Mono:4.4 %, Eos:7.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR with infiltrate right base under penetrated c/w yesterday.
   Microbiology: Sputum GNR in gram stain, negative on culture.
   Blood culture negative
   Urine culture negative.
   Assessment and Plan
 ALTERATION IN NUTRITION:
   Speech and swallow consult today, also to assess for PMV.
 CONSTIPATION (OBSTIPATION, FOS):
   resolved on bowel regimen.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   On empiric cipro, gent and vancomycin. F/u blood culture + senses from
   [**10-28**] to evaluate for line infection, will attempt to give him a line
   holiday and place peripheral iv and d/c PICC today. Peripheral cultures
   have been negative to date, and prior CNS may be contaminant.  Also
   will call ENT for ? drainage of the right sinus space, Also empirically
   treating for MSSA HAP, although sputum cultures have been recently
   negative.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
   continue TM trials.
   ICU Care
   Nutrition:
   Comments: Speech and swallow evaluation
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   18 Gauge - [**2134-10-30**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname 901**] with the ICU team, whose note
   reflects my input.  I would add/emphasize that he has been successfully
   transitioned to trach collar trials.  CT showed substantial progression
   of sinus opacity.  Febrile to 101.4.  On exam he is alert and
   interactive (though had some delirium last night).  Breath sounds are
   distant and course.  No facial tenderness or percussion tenderness.
   CXR is hard to interpret.  Review of micro shows:
   Sputum
   [**10-21**]
 Staph
   [**10-23**]
 Staph
   [**10-27**]
 negative (BAL)
   [**10-30**]
 yeast
   Blood
   [**2134-11-1**]  - NGSF
   [**2134-10-31**]  - NGSF
   [**2134-10-30**]  - NGSF
   [**2134-10-29**]  - NGSF
   [**2134-10-28**]  - Coag negative Staph (2 of 2)
   [**2134-10-26**]  - Coag negateive Staph (2 of 4)
   [**2134-10-24**]
 Negative (several prior negatives)
   Urine
   [**10-29**]
 negative
   [**10-31**]
 NGSF
   Imaging is most notable for substantive progression of sinus opacities.
   Assessment and Plan
   51-year-old man with achondroplasia now with respiratory failure and
   recrudescent fever.  The etiology of the fever is not clear.  I doubt
   that this is a line infection given multiple negative sequential
   cultures.  Pneumonia also seems less likely given improved pulmonary
   status, though neither are excluded.  Sinusitis is possible.  Although
   the CT is impressive, it is hard to know if it is infectious or just
   related to obstruction.  We will ask ENT to comment and consider meatal
   sampling/visualization.  In the interim, will continue present ABX,
   nasal decongestion, saline washes, etc.  Sinusitis is a reasonably
   common cause of fever in similar patients (see Crit Care. [**2130**] [**11-8**];9(5):R583-90. Epub [**2130**] [**10-17**]).
   Other issues as per Dr. [**First Name (STitle) 10164**]
s note and the ICU team note from today.
   He is critically ill: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2134-11-1**] 12:34 ------

2134-11-02 07:20:00 Physician Resident Progress Note
24 Hour Events:
 INVASIVE VENTILATION - STOP [**2134-11-1**] 08:28 AM
 NASAL SWAB - At [**2134-11-1**] 01:55 PM
   ENT took cx from R middle meatus.
   - continued on trach collar
   - ENT performed nasal aspirate
   - Cr trending upward.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2134-10-30**] 06:00 PM
   Vancomycin - [**2134-11-1**] 07:50 PM
   Ciprofloxacin - [**2134-11-1**] 10:00 PM
   Gentamicin - [**2134-11-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-11-2**] 12:00 AM
   Furosemide (Lasix) - [**2134-11-2**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-11-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 76 (68 - 86) bpm
   BP: 110/41(55) {110/37(50) - 150/81(93)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  1,531 mL
                                                                    173 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,291 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,562 mL
                                                                    595 mL
   Urine:
                                                                  1,562 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -31 mL
                                                                   -422 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 268 (268 - 268) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: ///37/
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Resp: B/L coarse BS an rhonchi
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   325 K/uL
   13.3 g/dL
   108 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.8 mEq/L
   33 mg/dL
   89 mEq/L
   137 mEq/L
   40.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
                             [**2134-10-31**]  05:39 PM
                             [**2134-10-31**]  11:49 PM
                             [**2134-11-2**]  05:56 AM
   WBC
   7.1
   9.4
   8.3
   9.3
   8.6
   8.2
   Hct
   38.8
   41.7
   39.0
   42.9
   37.7
   40.2
   Plt
   197
   216
   217
   296
   332
   325
   Cr
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   1.0
   1.0
   1.2
   TCO2
   34
   Glucose
   103
   152
   111
   156
   146
   150
   108
   Other labs: PT / PTT / INR:13.7/24.9/1.2, ALT / AST:14/12, Alk Phos / T
   Bili:38/0.3, Differential-Neuts:77.2 %, Lymph:10.1 %, Mono:4.4 %,
   Eos:7.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   [**11-2**] BCx pending
[**2134-11-1**] 1:51 pm ASPIRATE     Site: SINUS
      Source: Sinus RIGHT MIDDLE MEATUS.
   GRAM STAIN (Final [**2134-11-1**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
   [**11-1**] BCx pending
   [**10-31**] BCx pending
   [**10-30**] BCx pending
   ASSESSMENT & PLAN:
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure, now s/p trach, tolerating collar
   .
   # Fever: Afebrile now for 24 hours. GNR in sputum has not grown however
   cont day 3 of treatment for VAP. Also ? if PICC infection however BCx
   show coag neg staph and surveillance BCx have been negative suggestive
   of contaminant.
   - continue gent/cipro for GNR in sputum x 8 days
   - gent trough in AM, hold gentamicin today
   - continue vancomycin for now given still febrile
   - f/u pending blood cultures from [**10-28**] and speciate out coag neg staph
   -f/u subsequent surveillence cultures
   -d/c PICC, culture tip, place PIV
   # Sinusitis: ENT consult aspirated right maxillary sinus. Saw clear
   mucus. Lokely covered for any bacterial component with ciprofloxacin.
   -appreciate ENT recs
   -cont afrin and nasal aspiration for 3 days
   .
   # ARF: Cr up to 1.2
   - renally dose meds
   - d/c spironolactone
   - avoid diuresis today, I/O = even
   - change atenolol to metoprolol
   # Hypercarbic respiratory failure:  Appears to be doing well on trach
   collar with periodic vent support. Did well with PMV and PO ground
   diet.
   - cont trach collar
   - hold diuresis for now
   # Constipation: Cdiff negative.  On bowel regimen
   #HTN: Well controlled
   - switch atenolol to metoprolol for ARF
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH: on terazosin
   ICU Care
   Nutrition: Tolerated PMV and PO diet well and pills with Jello
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   18 Gauge - [**2134-10-30**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-11-02 09:37:00 Physician Attending Progress Note
Chief Complaint: feels well this am, decreased secretions
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2134-11-1**] 08:28 AM
 NASAL SWAB - At [**2134-11-1**] 01:55 PM
   ENT took cx from R middle meatus.
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2134-10-30**] 06:00 PM
   Ciprofloxacin - [**2134-11-1**] 10:00 PM
   Gentamicin - [**2134-11-2**] 12:00 AM
   Vancomycin - [**2134-11-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-11-2**] 06:07 AM
   Heparin Sodium (Prophylaxis) - [**2134-11-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-11-2**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 82 (69 - 82) bpm
   BP: 129/69(85) {110/37(50) - 150/81(93)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  1,531 mL
                                                                    393 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,291 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  1,562 mL
                                                                  1,135 mL
   Urine:
                                                                  1,562 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -31 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   Well appearing, sitting up in bed
   PERRL, EOMI, normal appearing OP
   S1/S2 regular
   Diminished breath sounds throughout, no wheeze
   Abd soft, nt, nd
   EXT: wwp
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   325 K/uL
   108 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.8 mEq/L
   33 mg/dL
   89 mEq/L
   137 mEq/L
   40.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2134-10-27**]  06:10 AM
                             [**2134-10-28**]  03:13 AM
                             [**2134-10-28**]  01:24 PM
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
                             [**2134-10-31**]  05:39 PM
                             [**2134-10-31**]  11:49 PM
                             [**2134-11-2**]  05:56 AM
   WBC
   7.1
   9.4
   8.3
   9.3
   8.6
   8.2
   Hct
   38.8
   41.7
   39.0
   42.9
   37.7
   40.2
   Plt
   197
   216
   217
   296
   332
   325
   Cr
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   1.0
   1.0
   1.2
   TCO2
   34
   Glucose
   103
   152
   111
   156
   146
   150
   108
   Other labs: PT / PTT / INR:13.7/24.9/1.2, ALT / AST:14/12, Alk Phos / T
   Bili:38/0.3, Differential-Neuts:77.2 %, Lymph:10.1 %, Mono:4.4 %,
   Eos:7.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   51 yo M achondroplasia OSA/OHS presents with respiratory failure
   Respiratory failure:  likely VAP
    - afebrile x 24 hours, presumed VAP v sinusitis.
    - day [**4-11**] gent/cipro [**3-8**] allergies
    - awaiting sensitivities, awaiting sinus cultures
    - f/u gent level
   sinusitis:
    - await cultures
    - afrin, nasal saline spray, mucinex
    - cont abx
   Fever: likely sinusitis v vap v line infection:
   - cont vanc/gent/cipro
    - will d/c picc line
   If patient loses access, cont cipro and change vanc to linezolid
    - vanc total 14 day course for presumed line infection (now day [**1-17**])
   Acute renal failure:
    - prerenal v med related
    - check urine lytes
    - renally dose meds
    - hold atenolol --> lopressor
    - d/c spironolactone
   ICU Care
   Nutrition:
   Comments: oral ground diet
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   18 Gauge - [**2134-10-30**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2134-11-03 07:23:00 Physician Resident Progress Note
24 Hour Events:
 PICC LINE - STOP [**2134-11-2**] 10:30 AM
   - ENT recs: nothing new
   - renally dosed all meds
   - held gentamicin today
   - PIV x 2 for line holiday, removed PICC and tip cultured
   - PT/OT consulted
   - ABG at night completed per sleep
   - ativan x 1 given for anxiety at night
   - rehab bed held up due to insurance
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2134-11-2**] 12:00 AM
   Vancomycin - [**2134-11-2**] 08:35 PM
   Ciprofloxacin - [**2134-11-2**] 10:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-11-2**] 10:51 PM
   Heparin Sodium (Prophylaxis) - [**2134-11-3**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-11-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 73 (73 - 89) bpm
   BP: 123/47(64) {106/25(54) - 141/73(86)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
                  Total In:
                                                                  1,025 mL
                                                                    200 mL
   PO:
                                                                    420 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    605 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    380 mL
   Urine:
                                                                  1,585 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: 7.42/67/64/40/14
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Resp: B/L coarse BS an rhonchi
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   262 K/uL
   12.3 g/dL
   119 mg/dL
   1.2 mg/dL
   40 mEq/L
   4.1 mEq/L
   33 mg/dL
   90 mEq/L
   138
   37.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
                             [**2134-10-31**]  05:39 PM
                             [**2134-10-31**]  11:49 PM
                             [**2134-11-2**]  05:56 AM
                             [**2134-11-2**]  07:36 AM
                             [**2134-11-2**]  10:45 PM
                             [**2134-11-3**]  04:55 AM
   WBC
   9.4
   8.3
   9.3
   8.6
   8.2
   6.3
   Hct
   41.7
   39.0
   42.9
   37.7
   40.2
   37.0
   Plt
   [**Telephone/Fax (3) 10392**]32
   325
   262
   Cr
   0.6
   0.7
   0.8
   0.8
   1.0
   1.0
   1.2
   0.9
   1.2
   TCO2
   45
   Glucose
   111
   156
   146
   150
   108
   119
   Other labs: PT / PTT / INR:14.1/25.6/1.2, ALT / AST:14/12, Alk Phos / T
   Bili:38/0.3, Differential-Neuts:77.2 %, Lymph:10.1 %, Mono:4.4 %,
   Eos:7.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan:
   51 yo M with PMH of CHF, OSA, OHS presents with SOB and hypercarbic
   respiratory failure, now s/p trach, tolerating collar.
   .
   # Fever: Afebrile now for 24 hours. GNR in sputum has not grown however
   cont day 4 of treatment for VAP. Also ? if PICC infection however BCx
   show coag neg staph and surveillance BCx have been negative suggestive
   of contaminant.
   - continue gent/cipro for GNR in sputum x 8 days
   - gentamicin 400 mg IV q 36 hours per pharm given high trough
   - continue vancomycin for now given still febrile
   - f/u pending blood cultures from [**10-28**] and speciate out coag neg staph
   -f/u subsequent surveillence cultures
   -d/c PICC, culture tip, place PIV
   # Sinusitis: ENT consult aspirated right maxillary sinus. Saw clear
   mucus. Lokely covered for any bacterial component with ciprofloxacin.
   -appreciate ENT recs
   -cont afrin and nasal aspiration for 3 days
   - needs appt for f/u
   .
   # ARF: Cr up to 1.2, urine lytes prerenal
   - renally dose meds
   - continue to hold spironolactone
   - avoid diuresis today, I/O = even
   - change atenolol to metoprolol
   # Hypercarbic respiratory failure:  Appears to be doing well on trach
   collar with periodic vent support. Did well with PMV and PO ground
   diet.
   - cont trach collar
   - hold diuresis for now
   # Constipation: Cdiff negative.  On bowel regimen
   #HTN: Well controlled
   - switch atenolol to metoprolol for ARF
   # Spinal stenosis: stable
   # Achondroplasia: no active issues
   # BPH: on terazosin
   ICU Care
   Nutrition: Tolerated PMV and PO diet well and pills with Jello
   Glycemic Control:
   Lines:
   PICC Line - [**2134-10-21**] 04:22 PM
   18 Gauge - [**2134-10-30**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending rehab bed availability

2134-11-03 12:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   picc d/c
                   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Cephalosporins
   Unknown;
   Aztreonam
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2134-11-2**] 12:00 AM
   Vancomycin - [**2134-11-3**] 08:00 AM
   Ciprofloxacin - [**2134-11-3**] 10:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-11-2**] 10:51 PM
   Heparin Sodium (Prophylaxis) - [**2134-11-3**] 08:25 AM
   Other medications:
   terazosin
   benzonatate
   riss
   fluticasone nasal spray
   nacl nasal
   afrin [**Hospital1 **]
   lopressor 12.5 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-11-3**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 81 (72 - 89) bpm
   BP: 135/70(85) {106/25(54) - 141/73(86)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.9 kg (admission): 135 kg
   Height: 53 Inch
             Total In:
                                                                  1,025 mL
                                                                    500 mL
   PO:
                                                                    420 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    605 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    505 mL
   Urine:
                                                                  1,585 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: 7.42/67/64/40/14
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   262 K/uL
   119 mg/dL
   1.2 mg/dL
   40 mEq/L
   4.1 mEq/L
   33 mg/dL
   90 mEq/L
   111
   37.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2134-10-29**]  03:09 AM
                             [**2134-10-30**]  03:47 AM
                             [**2134-10-30**]  06:13 PM
                             [**2134-10-31**]  04:26 AM
                             [**2134-10-31**]  05:39 PM
                             [**2134-10-31**]  11:49 PM
                             [**2134-11-2**]  05:56 AM
                             [**2134-11-2**]  07:36 AM
                             [**2134-11-2**]  10:45 PM
                             [**2134-11-3**]  04:55 AM
   WBC
   9.4
   8.3
   9.3
   8.6
   8.2
   6.3
   Hct
   41.7
   39.0
   42.9
   37.7
   40.2
   37.0
   Plt
   [**Telephone/Fax (3) 10392**]32
   325
   262
   Cr
   0.6
   0.7
   0.8
   0.8
   1.0
   1.0
   1.2
   0.9
   1.2
   TCO2
   45
   Glucose
   111
   156
   146
   150
   108
   119
   Other labs: PT / PTT / INR:14.1/25.6/1.2, ALT / AST:14/12, Alk Phos / T
   Bili:38/0.3, Differential-Neuts:77.2 %, Lymph:10.1 %, Mono:4.4 %,
   Eos:7.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: 7.42/67/64
   Assessment and Plan
   51 yo M achondroplasia, copd, vap, sinusitis
   1. VAP:
   d. [**5-12**] gent --> change dose to 400 q 36, cont monitor
   d [**5-12**] cipro
   2. SInusitis:
    - complete afrin, ns
    - cont flonase
    - ent f/u
   3. bacteremia: d 13/14 vanc
   4. renal insufficiency: meds v pre-renal
    - holding lasix
    - ivf as necessary
   ICU Care
   Nutrition:
   Comments: advancing diet per nutrition
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2134-10-30**] 07:00 PM
   20 Gauge - [**2134-11-2**] 11:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 1321**] [**Last Name (NamePattern1) 192**],  MD
   on:[**2134-11-3**] 12:25 ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname 901**] with the ICU team.  The ICU team note
   and Dr. [**Last Name (STitle) 192**]
s note reflect my input.  I would add/emphasize that
   peripheral IVs were obtained and the PICC was d/c
d.  Tmax down to
   99.4.  Remains off the ventilator.  Creatinine is 1.2, which is a
   substantial increase from baseline but is stable c/w yesterday
   morning.  We will complete empiric therapy for VAP, decreasing gent and
   monitoring.  For sinusitis, we will continue ABX and nasal
   decongestants.  It is not completely clear whether he had bacteremia or
   if they were contaminants; will receive a couple of more days of
   vancomycin.  For renal insufficiency (technically meets criteria for
   acute renal failure, though mild), will hold Lasix.  Other issues as
   per Dr. [**Last Name (STitle) 192**] and the ICU team note.  He is transferred to rehab.
   temperature curve has improved a bit.  Remains off the vent, now for
   second day.  ENT consult.  Cough diminished.  On exam he is comfortable
   with coarse breath sounds.  Labs esp notable for HCO3 37, Cr 1.2 (from
   0.6).  For fever (?sinusitis, ?pneumonia), we will continue present
   antibiotics while awaiting cultures.  Pattern of cultures does not
   clearly tell us whether a line infection is present or not; we will
   follow for now as we are unable to obtain peripheral IVs, and risks of
   central line appear to outweigh benefits in this setting.  We will run
   approximately even today, as his creatinine has doubled, indicated
   acute renal failure.  If continues to increase, will need further
   evaluation.  Other issues as per Dr. [**Last Name (STitle) 192**] and the ICU team note.  He
   is ready for screening for rehab, and will need completion of
   antibiotics with appropriate monitoring of levels, follow-up of
   creatinine, follow-up of cultures, and consideration of additional
   vascular access.  Our team has discussed with patient and is calling
   his wife.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2134-11-3**] 21:03 ------